US06596772B1
A mixture of 4-(trifluoromethylthio)bromobenzene (0.47 g, 1.82 mmol), bis (tri-N-butylstannyl)acetylene (0.5 g, 0.83 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.05 g, 0.04 mmol) in THF (10 mL) under nitrogen was heated to reflux overnight. After the usual work-up, it was purified by column chromatography to give 0.24 g (80%) of 1,2-bis(4-trifluoromethylthiophenyl)acetylene as a white fluffy solid. 1HNMR (360 MHz, DMSO-d6) δ7.72-7.79 (m, 8H). MS-EI m/z 378 [M+].

reactant | 4-(trifluoromethylthio)bromobenzene | 1.82 mmol, 0.47 g | FC(SC1=CC=C(C=C1)Br)(F)F | C7H4BrF3S
reactant | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.04 mmol, 0.05 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,2-bis(4-trifluoromethylthiophenyl)acetylene | 0.24 g, 80% | FC(SC1=CC=C(C=C1)C#CC1=CC=C(C=C1)SC(F)(F)F)(F)F | C16H8F6S2
